US06166028
[3-Chloro-4-(1-hydroxy-ethyl)-phenyl]-carbamic acid 2-trimethylsilanyl-ethyl ester
(3-Chloro-4-vinyl-phenyl)-carbamic acid 2-trimethylsilanyl-ethyl ester (2.6 g) is added to a solution of mercuric acetate (3.48 g) in water (7 mL) and tetrahydrofuran (5.25 mL) and the mixture is stirred for approximately 15 hours. 3N Aqueous sodium hydroxide (8.7 mL) and a 0.5 M solution of sodium borohydride in 3N aqueous sodium hydroxide (8.7 mL) are then added and stirring is continued for 6 hours. The solution is then saturated with sodium chloride and extracted with ethyl acetate. These organic extracts are then washed with saturated aqueous sodium chloride and dried over anhydrous sodium sulfate. Following removal of the solvent under reduced pressure the residue is chromatographed over silica gel (20% ethyl acetate in hexanes is used as the eluant) to provide the desired product as a white solid.

reactant | (3-Chloro-4-vinyl-phenyl)-carbamic acid 2-trimethylsilanyl-ethyl ester | 2.6 g | C[Si](CCOC(NC1=CC(=C(C=C1)C=C)Cl)=O)(C)C | C14H20ClNO2Si
reactant | sodium borohydride | [BH4-].[Na+]
reactant | water | 7 mL | O | H2O
solvent | tetrahydrofuran | 5.25 mL | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 3N, 8.7 mL | [OH-].[Na+]
solvent | sodium hydroxide | 3N, 8.7 mL | [OH-].[Na+]
product | [3-Chloro-4-(1-hydroxy-ethyl)-phenyl]-carbamic acid 2-trimethylsilanyl-ethyl ester | C[Si](CCOC(NC1=CC(=C(C=C1)C(C)O)Cl)=O)(C)C | C14H22ClNO3Si
